US07456164B2
Intermediate 89: 1-[4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-yl]methanamine
To a stirred solution of 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile (3.5 g, 11 mmol) in THF (35 ml) at 0° C. was added dropwise lithium aluminium hydride (1M solution in ether, 44 ml, 44 mmol). The reaction was allowed to warm up to room temperature and stirred for 4 hours until complete. The reaction mixture was cooled to 0° C., water (1.66 mL) was added followed by NaOH (2.0M, 1.66 mL) and water (4.97 mL). The mixture was filtered through a short pad of celite, eluting with dichloromethane:methanol (97:3, 150 ml) and concentrated in vacuo. Solid obtained was partitioned between ethyl acetate (50 ml) and sodium bicarbonate (50 ml). The organic layer was then dried over sodium sulphate, filtered and concentrated in vacuo to give the title compound (2.04 g, 58%). LRMS APCI+ m/z 322 [MH]+.

reactant | 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile | 11 mmol, 3.5 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CCOCC1)C#N | C18H27NO2Si
reactant | lithium aluminium hydride | 44 mmol, 1M, 44 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.66 mL | O | H2O
reactant | NaOH | 2.0M, 1.66 mL | [OH-].[Na+]
reactant | water | 4.97 mL | O | H2O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-[4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-yl]methanamine | 2.04 g, 58% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CCOCC1)CN | C18H31NO2Si
